US08076332B2
N-(2-Aminophenyl)-4-[1-(3-dimethylaminopropyl)-3-(3-hydroxyphenyl)ureidomethyl]benzamide (Compound No. 3-1)
10% Palladium on carbon (100 mg) was added to a solution of N-(2-aminophenyl)-4-[3-(3-benzyloxyphenyl)-1-(3-dimethylaminopropyl)ureidomethyl]benzamide (Compound No. 1-76, 640 mg, 1.2 mmol) in a mixed solvent (ethyl acetate (10 mL), methanol (10 mL), and DMF (10 mL)), and then the reaction mixture was stirred under a hydrogen atmosphere at room temperature for 32 hours. After the insoluble was filtered off, water (100 mL) was added to the filtrate, the whole was extracted with ethyl acetate (100 mL) twice, and then the organic layer was washed with brine (100 mL) twice. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to give 480 mg of the title compound as a white amorphous product. (Yield 88%)

reactant | N-(2-aminophenyl)-4-[3-(3-benzyloxyphenyl)-1-(3-dimethylaminopropyl)ureidomethyl]benzamide | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CN(C(=O)NC1=CC(=CC=C1)OCC1=CC=CC=C1)CCCN(C)C)=O | C33H37N5O3
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | methanol | 10 mL | CO | CH4O
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Palladium on carbon | 100 mg | [Pd] | Pd
product | N-(2-Aminophenyl)-4-[1-(3-dimethylaminopropyl)-3-(3-hydroxyphenyl)ureidomethyl]benzamide | 480 mg, Yield 88% | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(CCCN(C)C)NC(=O)NC1=CC(=CC=C1)O)=O | C26H31N5O3
